US04284644
5-Carboxyspiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one (2.04 g.), triethylamine (1.4 ml.), isobutyl chlorocarbonate (1.5 g.) and N-ethyl-2-aminomethylpyrrolidine (1.4 g.) were allowed to react in the same manner as Example 58. The product was converted to oxalate by a known procedure and recrystallization from ethanol gave colorless prisms of 5-(1-ethyl-2-pyrrolidinyl)methylcarbamoylspiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one (1.567 g.).

reactant | 5-Carboxyspiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | 2.04 g | C(=O)(O)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C11H8O4
reactant | isobutyl chlorocarbonate | 1.5 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | N-ethyl-2-aminomethylpyrrolidine | 1.4 g | C(C)N1C(CCC1)CN | C7H16N2
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | 5-(1-ethyl-2-pyrrolidinyl)methylcarbamoylspiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | 1.567 g | C(C)N1C(CCC1)CNC(=O)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C18H22N2O3
